US04504662
3-Cyclohexylcarbonylamino-5,7-dimethylisoxazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione.
To a solution of 17.5 g of 3-amino-5,7-dimethylisoxazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione in 350 ml of pyridine, 26.2 g of cyclohexanecarbonyl chloride was added and the mixture was heated at 50° C. for 3 hours. The mixture was evaporated to dryness under reduced pressure and 200 ml of methanol was added to the residue. The resultant crystals were recrystallized twice from chloroform-methanol to afford 15.7 g of colorless needles, m.p. 210°-212° C.

reactant | 3-amino-5,7-dimethylisoxazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 17.5 g | NC=1ON=C2N(C(N(C(C21)=O)C)=O)C | C7H8N4O3
reactant | cyclohexanecarbonyl chloride | 26.2 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
product | 3-Cyclohexylcarbonylamino-5,7-dimethylisoxazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 15.7 g | C1(CCCCC1)C(=O)NC=1ON=C2N(C(N(C(C21)=O)C)=O)C | C14H18N4O4
